* source FILTERTESTS
V_V1         N02229 0 DC 0Vdc AC 1Vac 
C_C3         N02285 N026650  5.30pF  TC=0,0 
L_L3         N02751 0  6.63nH  
R_R0         N02229 N022170  50 TC=0,0 
R_R4         0 N02285  50 TC=0,0 
C_C1         N02751 N025100  5.30pF  TC=0,0 
C_C2         0 N02751  4.55nF  TC=0,0 
L_L1         N025100 N022170  5.68uH  
L_L4         N026650 N02751  5.68uH  
