* source FILTERTESTS
R_R0         N01702 N01963  50 TC=0,0 
C_C1         0 N01963  109.8pF  TC=0,0 
L_L2         N01508 N01963  0.549uH  
V_V1         N01702 0 DC 0Vdc AC 1Vac 
R_R4         0 N01508  50 TC=0,0 
C_C3         0 N01508  109.8pF  TC=0,0 
