* source FILTERTESTS
L_L3         N01644 N01508  0.274uH  
L_L1         N01508 N014601  0.274uH  
C_C2         0 N01508  219.5pF  TC=0,0 
R_R0         N01702 N014601  50 TC=0,0 
R_R4         0 N01644  50 TC=0,0 
V_V1         N01702 0 DC 0Vdc AC 1Vac 
